US07696231B2
a) Preparation of N-dodecyl-2,3-dioxo-7-indolinecarboxamide
Into a solution of 2,3-dioxo-7-indolinecarboxylic acid (1000 mg, 5.23 mmol), 1-dodecanamine (1066 mg, 5.75 mmol), TEA (1.60 mL, 11.51 mmol), EDCI.HCl (1102 mg, 5.75 mmol) and HOBt (777 mg, 5.75 mmol) in DMF (60 mL). The resulting mixture was allowed to stir at rt for 24 hrs. The solvent was evaporated off and the residue was taken up in DCM to be purified by flash chromatography using DCM/MeOH (98/2) as eluant. A gummy orange solid was collected to be identified as the title compound (44%) in a 96.0% purity by HPLC (MaxPlot detection between 230 and 400 nm).

reactant | 2,3-dioxo-7-indolinecarboxylic acid | 5.23 mmol, 1000 mg | O=C1NC2=C(C=CC=C2C1=O)C(=O)O | C9H5NO4
reactant | 1-dodecanamine | 5.75 mmol, 1066 mg | C(CCCCCCCCCCC)N | C12H27N
reactant | EDCI.HCl | 5.75 mmol, 1102 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | 5.75 mmol, 777 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
product | N-dodecyl-2,3-dioxo-7-indolinecarboxamide | C(CCCCCCCCCCC)NC(=O)C=1C=CC=C2C(C(NC12)=O)=O | C21H30N2O3
